US07291631B2
Using General Procedure B: Reaction of C-(3-methyl-pyridin-2-yl)-methylamine and 3-chloro-pyridine-2-carboxaldehyde with NaBH(OAc)3 in CH2Cl2 gave (3-chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amine as a yellow oil. Using General Procedure A: Reaction of (3-chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amine, 2-bromomethyl-5-cyano-benzoic acid methyl ester, and DIPEA in CH3CN gave 2-{[(3-chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester as a colorless oil. 1H NMR (CDCl3) δ 2.12 (s, 3H), 3.85 (s, 3H), 3.90 (s, 2H), 3.97 (s, 2H), 4.22 (s, 2H), 7.03 (dd, 1H, J=7.8, 4.8 Hz), 7.13 (dd, 1H, J=7.8, 4.8 Hz), 7.32 (d, 1H, J=6.9 Hz), 7.52-7.63 (m, 2H), 7.71 (d, 1H, J=8.1 Hz), 7.94 (d, 1H, J=1.5 Hz), 8.30 (d, 1H, J=4.5 Hz), 8.42 (dd, 1H, J=4.8, 1.5 Hz).

reactant | C-(3-methyl-pyridin-2-yl)-methylamine | CC=1C(=NC=CC1)CN | C7H10N2
reactant | 3-chloro-pyridine-2-carboxaldehyde | ClC=1C(=NC=CC1)C=O | C6H4ClNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3-chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amine | ClC=1C(=NC=CC1)CNCC1=NC=CC=C1C | C13H14ClN3
